US09062034B2
(a) methyl N-(5-chlorothiophen-2yl)carbonyl-aziridine-2-carboxylate
A mixture of 4.40 g (43.5 mmol) methyl aziridine-2-carboxylate and 13.5 ml (97.3 mmol) triethylamine in 30 ml methylene chloride is combined with 8.80 g (48.6 mmol) 5-chlorothiophenecarboxylic acid chloride in 30 ml methylene chloride while cooling with ice and subsequently after removal of the cooling bath stirred for 3 h at room temperature. Then the mixture is diluted with water, extracted with methylene chloride, dried with sodium sulphate, concentrated and purified by chromatography (silica gel, petroleum ether/ethyl acetate 80/15->80/20) to obtain the slightly contaminated title compound.

reactant | methyl aziridine-2-carboxylate | 43.5 mmol, 4.40 g | N1C(C1)C(=O)OC | C4H7NO2
reactant | triethylamine | 97.3 mmol, 13.5 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophenecarboxylic acid chloride | 48.6 mmol, 8.80 g | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl N-(5-chlorothiophen-2yl)carbonyl-aziridine-2-carboxylate | ClC1=CC=C(S1)C(=O)N1C(C1)C(=O)OC | C9H8ClNO3S
